### PR TITLE
[Merged by Bors] - feat(Algebra/Order/Module): add missing instances

### PR DESCRIPTION
**Pull request by urkud**
---
Currently, it adds an import to `Defs`. Another option is to move the `Prod` and `Pi` instances to `Basic.lean`.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by ghost** [comment]
!bench

File: Mathlib/Algebra/Order/Module/Defs.lean [hunk 1]
```diff
@@ -1052,26 +1053,92 @@ lemma smul_nonpos_iff_neg_imp_nonneg : a • b ≤ 0 ↔ (a < 0 → 0 ≤ b) ∧
...
   le_of_smul_le_smul_right _b hb _a₁ _a₂ h := by
     obtain ⟨-, i, hi⟩ := lt_def.1 hb; exact le_of_smul_le_smul_right (h _) hi
 
-end SMulZeroClass
+end SMul
+
+variable [∀ i, Zero (β i)]
 
 section SMulWithZero
 variable [PartialOrder α] [∀ i, PartialOrder (β i)] [∀ i, SMulWithZero α (β i)]
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Module/Defs.lean]:
```suggestion

section SMulWithZero
variable [∀ i, Zero (β i)] [PartialOrder α] [∀ i, PartialOrder (β i)] [∀ i, SMulWithZero α (β i)]
```
no?

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Comment by riccardobrasca** [comment]
Thanks!

bors d+

File: Mathlib/Algebra/Order/Module/Defs.lean [hunk 2]
```diff
@@ -1052,29 +1053,94 @@ lemma smul_nonpos_iff_neg_imp_nonneg : a • b ≤ 0 ↔ (a < 0 → 0 ≤ b) ∧
...
+    rcases lt_iff.mp hb with ⟨h₁, -⟩ | ⟨-, h₁⟩
+    · exact le_of_smul_le_smul_right h.1 h₁
+    · exact le_of_smul_le_smul_right h.2 h₁
+
+end SMul
+
+variable [Zero β] [Zero γ]
+
+section SMulWithZero
+variable [PartialOrder α] [PartialOrder β] [PartialOrder γ] [SMulWithZero α β] [SMulWithZero α γ]
```
Comment (urkud) [inline Mathlib/Algebra/Order/Module/Defs.lean]:
```suggestion
section SMulWithZero
variable [PartialOrder α] [PartialOrder β] [PartialOrder γ]
  [Zero β] [Zero γ] [SMulWithZero α β] [SMulWithZero α γ]
```

**Comment by ghost** [comment]
As this PR is labelled `auto-merge-after-CI`, we are now sending it to bors:

bors merge

**Comment by ghost** [comment]
As this PR is labelled `auto-merge-after-CI`, we are now sending it to bors:

bors merge

**Comment by ghost** [comment]
As this PR is labelled `auto-merge-after-CI`, we are now sending it to bors:

bors merge
